US04607030
2-Aminomethyl-6-butylsulfamoyl-4-(1,1-dimethylethyl)phenol hydrochloride
This compound is prepared analogously to Examples 11c and 11d from 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol and butylamine.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | butylamine | C(CCC)N | C4H11N
product | 2-Aminomethyl-6-butylsulfamoyl-4-(1,1-dimethylethyl)phenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(NCCCC)(=O)=O)O | InChI=1S/C15H26N2O3S.ClH/c1-5-6-7-17-21(19,20)13-9-12(15(2,3)4)8-11(10-16)14(13)18;/h8-9,17-18H,5-7,10,16H2,1-4H3;1H
